US04616086
n-Butyl 4-(1-Methylpiperazin-4-yl)-benzoate
19.6 g. (75 mmole) n-Butyl 4-(piperazin-1-yl)-benzoate are heated to reflux temperature for 12 hours in a mixture of 112 ml. 80% formic acid and 37.5 ml. 40% formaldehyde solution. After cooling, the reaction mixture is poured into 2.5 liters of water, rendered alkaline with 10N aqueous sodium hydroxide solution and extracted with methylene chloride. The methylene chloride extracts are dried and evaporated to give 17.8 g. (86% of theory) of the desired product; m.p. 118°-120° C.

reactant | n-Butyl 4-(piperazin-1-yl)-benzoate | 75 mmole | N1(CCNCC1)C1=CC=C(C(=O)OCCCC)C=C1 | C15H22N2O2
reactant | formic acid | C(=O)O | CH2O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | water | 2.5 liters | O | H2O
product | n-Butyl 4-(1-Methylpiperazin-4-yl)-benzoate | CN1CCN(CC1)C1=CC=C(C(=O)OCCCC)C=C1 | C16H24N2O2
